US08193236B2
3-(6-Hydroxymethyl-2-methyl-imidazo[1,2-a]pyridin-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione
A 4 M aqueous solution of hydrochloric acid (5.0 ml) is added to 3-[6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione (180 mg, 0.29 mmol). The reaction mixture is stirred for 24 hours at 45° C. After removal of volatiles in vacuo, purification via flash chromatography (CH2Cl2/MeOH 95:5) affords the title compound (90 mg, 82%). 1H NMR (400 MHz, d6-DMSO): δ=11.94 (s, 1H), 11.08 (s, 1H), 8.05 (s, 1H), 7.91 (s, 1H), 7.40 (d, J=9.0 Hz, 1H), 7.32 (d, J=8.1 Hz, 1H), 7.13 (dd, J=9.0/1.8 Hz, 1H), 6.92 (dt, J=7.8/1.0 Hz, 1H), 6.46 (dt, J=7.6/1.0 Hz, 1H), 5.90 (d, J=8.0 Hz, 1H), 5.14 (t, J=5.4 Hz, 1H), 4.25 (t, J=4.7 Hz, 2H), 1.84 (s, 3H). (ES+): 373 (M+H)+.

reactant | hydrochloric acid | 5.0 ml | Cl | ClH
reactant | 3-[6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 0.29 mmol, 180 mg | C(C)(C)(C)[SiH2]OC(C=1C=CC=2N(C1)C(=C(N2)C)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H34N4O3Si
product | 3-(6-Hydroxymethyl-2-methyl-imidazo[1,2-a]pyridin-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 90 mg, 82% | OCC=1C=CC=2N(C1)C(=C(N2)C)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O | C21H16N4O3
